US04033975
A mixture of 6.5 parts of 2-amino-3,5-dibromopyridine, 12 parts of potassium hydroxide (85%), 0.5 part of copper powder and 100 parts of water is stirred under nitrogen in an autoclave for 10 hours at 170° C. The dark-coloured solution is neutralised with concentrated hydrochloric acid, saturated with sodium chloride and extracted three times in the warm state with an ethyl acetate/tetrahydrofuran mixture (9:1). The combined organic extracts are filtered through Hyflo, dried with sodium sulphate and filtered. After the solvent has been evaporated off, the residue is taken up in a small amount of hot ethyl acetate and chromatographed through silica gel. After removal of the ethyl acetate, there are obtained 2.2 parts (46.3% of theory) of 2-amino-3-hydroxy-5-bromopyridine, m.p. 205°-208° C.

reactant | 2-amino-3,5-dibromopyridine | NC1=NC=C(C=C1Br)Br | C5H4Br2N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 2-amino-3-hydroxy-5-bromopyridine | 46.3% | NC1=NC=C(C=C1O)Br | C5H5BrN2O
